US07326791B2
(c) rac.-1-(5-chlorobenzimidazol-2-yl)-2-phenylethylamine
1.35 g (4.302 mmol) of rac.-N-acetyl-1-(5-chlorobenzimidazol-2-yl)-2-phenylethylamine is placed in a mixture of 20 mL of 4 molar hydrochloric acid and 15 mL of methanol and the mixture is refluxed for 2 hours. Then all the volatile constituents are removed under reduced pressure. The crude product is further reacted directly. Rf value: 0.50 (silica gel; dichloromethane/ethanol=8:2).

reactant | rac.-N-acetyl-1-(5-chlorobenzimidazol-2-yl)-2-phenylethylamine | 4.302 mmol, 1.35 g | C(C)(=O)NC(CC1=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)Cl | C17H16ClN3O
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | hydrochloric acid | 4 molar, 20 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | rac.-1-(5-chlorobenzimidazol-2-yl)-2-phenylethylamine | ClC1=CC2=C(N=C(N2)C(CC2=CC=CC=C2)N)C=C1 | C15H14ClN3
